US05594023
Methyl 4-[3-amino-5-chloro-3-(2-chlorophenyl)-2,3-dihydro-2-oxoindol-1-yl]methyl-3-methoxybenzoate
A solution of 1.13 g of 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one in 7 ml of DMF is cooled to 0° C. under an argon atmosphere and 0.120 g of sodium hydride as an 80% dispersion in oil is added. After stirring for 30 minutes, 1 g of methyl 4-bromomethyl-3-methoxybenzoate is added and the reaction mixture is stirred for 1 hour at 0° C. It is poured into water and the precipitate formed is filtered off, washed with water, taken up with AcOEt, dried over sodium sulfate and evaporated under vacuum. The residue is chromatographed on silica using a DCM/AcOEt mixture (93/7; v/v) as the eluent to give the expected product after crystallization from a DCM/iso ether mixture. m=1.88 g. M.p.=152° C.

reactant | 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one | 1.13 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)Cl | C14H10Cl2N2O
reactant | sodium hydride | 0.120 g | [H-].[Na+]
reactant | methyl 4-bromomethyl-3-methoxybenzoate | 1 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | water | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[3-amino-5-chloro-3-(2-chlorophenyl)-2,3-dihydro-2-oxoindol-1-yl]methyl-3-methoxybenzoate | NC1(C(N(C2=CC=C(C=C12)Cl)CC1=C(C=C(C(=O)OC)C=C1)OC)=O)C1=C(C=CC=C1)Cl | C24H20Cl2N2O4
